US07799806B2
Step 1: 4-(3-Nitro-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-chloro-3-nitro-pyridine (25.0 g, 157.69 mmol, 1.0 equiv; commercially available) and triethylamine (19.15 g, 189.23 mol, 1.2 equiv) in anhydrous DMF (100 mL) was added 4-amino-piperidine-1-carboxylic acid tert-butyl ester (31.58 g, 157.69 mmol, 1.0 equiv; commercially available), dissolved in anhydrous DMF (30 mL), and the reaction mixture stirred at rt for 15 h. The reaction mixture was poured into ice-cold water (1 L) and stirred for 2 h, allowed to settle for another 2 h and then filtered. The orange solid was washed with water and air-dried. The crude material was crystallized from ethyl acetate to obtain 43.7 g (86%) of the title compound. 1H NMR (400 MHz, DMSO): δ 1.41 (s, 9H), 1.48-1.56 (m, 2H), 1.88-1.90 (m, 2H), 2.93 (br s, 2H), 3.90-3.93 (m, 3H), 7.14 (d, J=6.3 HZ, 1H), 8.03 (d, J=7.9 Hz, 1H), 8.27 (s, J=6.2 Hz, 1H), 9.03 (s, 1H).

reactant | 4-chloro-3-nitro-pyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | triethylamine | 189.23 mol, 19.15 g, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(3-Nitro-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 43.7 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=NC=C1)[N+](=O)[O-] | C15H22N4O4
